US07816526B2
Synthesis of 1-(4,6-dimethoxypyrimidin-2-yl)-3-(6-ethyl-2-methylimidazo[1,2-b]pyridazin-3-ylsulfonyl)urea (Compound No. 13)
As shown in the above reaction scheme, 6-ethyl-2-methylimidazo[1,2-b]pyridazin-3-ylsulfonamide (0.60 g, 2.50 mmol) and phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate (0.76 g, 2.76 mmol) were suspended in acetonitrile (10 ml) and stirred under ice-cooling, during which DBU (0.46 g, 3.02 mmol) was added thereto. The temperature of the reaction solution was increased to room temperature, and the mixture was stirred at the same temperature for 4 hours. The reaction solution was poured into ice-water (150 ml) and adjusted to pH 3 with conc. hydrochloric acid. The reaction mixture was stirred at room temperature for 5 minutes, and the precipitated crystals were washed with water, acetonitrile and diethyl ether in this order, and collected by filtration. The crystals were dried under reduced pressure to give the title compound as colorless crystals. The yield was 0.55 g (52%), and the melting point was 172 to 174° C.

reactant | 6-ethyl-2-methylimidazo[1,2-b]pyridazin-3-ylsulfonamide | 2.50 mmol, 0.60 g | C(C)C=1C=CC=2N(N1)C(=C(N2)C)S(=O)(=O)N | C9H12N4O2S
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 2.76 mmol, 0.76 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | DBU | 3.02 mmol, 0.46 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(4,6-dimethoxypyrimidin-2-yl)-3-(6-ethyl-2-methylimidazo[1,2-b]pyridazin-3-ylsulfonyl)urea | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(N=C2N1N=C(C=C2)CC)C | C16H19N7O5S
